US07253192B2
D] 2-(4-Hydroxy-5-methoxy-2-methyl-phenoxy)-2-methyl-propionic acid methyl ester
A freshly prepared solution of 91 mg (4 mmol) sodium in 5.4 ml methanol was added within 5 min to an ice cooled solution of 235 mg (0.8 mmol) 2-(4-acetoxy-5-methoxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester in 5.4 ml methanol. The solution was naturally warmed to ambient temperature and after 5 h the solvent was removed under reduced pressure. Ice water/1 M HCl 1/1 was added and the mixture was extracted two times with dichloromethane. The combined extracts were dried over sodium sulfate and the solvent was removed under reduced pressure to yield 153 mg (0.6 mmol, 76%) of the title compound as brown oil which was used in the next step without further purification.

reactant | sodium | 4 mmol, 91 mg | [Na] | Na
reactant | 2-(4-acetoxy-5-methoxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester | 0.8 mmol, 235 mg | C(C)OC(C(C)(C)OC1=C(C=C(C(=C1)OC)OC(C)=O)C)=O | C16H22O6
solvent | methanol | 5.4 ml | CO | CH4O
solvent | methanol | 5.4 ml | CO | CH4O
product | 2-(4-Hydroxy-5-methoxy-2-methyl-phenoxy)-2-methyl-propionic acid methyl ester | 0.6 mmol, 153 mg, 76% | COC(C(C)(C)OC1=C(C=C(C(=C1)OC)O)C)=O | C13H18O5
